US07563793B2
4-Ethyl-7-trifluoromethyl -4,5-dihydropyrrolo[1,2-a]quinoxaline was prepared from 4-trifluoromethyl-2-nitro aniline according to the sequence of Example 1 and 2, and the resulting oil treated with proprionaldehyde according tot he procedure of Example 3 to yield a light orange oil, which was used in the next step without further characterization.

reactant | 4-trifluoromethyl-2-nitro aniline | FC(C1=CC(=C(N)C=C1)[N+](=O)[O-])(F)F | C7H5F3N2O2
reactant | proprionaldehyde | C(CC)=O | C3H6O
product | 4-Ethyl-7-trifluoromethyl -4,5-dihydropyrrolo[1,2-a]quinoxaline | C(C)C1C=2N(C3=CC=C(C=C3N1)C(F)(F)F)C=CC2 | C14H13F3N2
